US05990139
Synthesis of 2-[1-(4-methoxyphenyl)-2-imidazolidinon-3-yl]ethanol (Compound No. 17)
In a similar manner to Referential Example 5 except that a reaction was conducted using α-{2-[1-(4-methoxyphenyl)-2-imidazolidinon-3-yl]ethoxy}toluene in lieu of α-{2-[1-(α,α,α-trifluoro-4-tolyl)-2-imidazolidinon-3-yl]ethoxy}toluene, the title compound was obtained in a yield of 91%.

reactant | α-{2-[1-(4-methoxyphenyl)-2-imidazolidinon-3-yl]ethoxy}toluene | COC1=CC=C(C=C1)N1C(N(CC1)CCOCC1=CC=CC=C1)=O | C19H22N2O3
reactant | α-{2-[1-(α,α,α-trifluoro-4-tolyl)-2-imidazolidinon-3-yl]ethoxy}toluene | FC(C1=CC=C(C=C1)N1C(N(CC1)CCOCC1=CC=CC=C1)=O)(F)F | C19H19F3N2O2
product | 2-[1-(4-methoxyphenyl)-2-imidazolidinon-3-yl]ethanol | yield of 91% | COC1=CC=C(C=C1)N1C(N(CC1)CCO)=O | C12H16N2O3
